US08034895B2
Synthesis of 2-[(thiophen-2-ylmethylene)-amino]-thiophene-3-carbonitrile (R═H)
2-Amino-thiophene-3-carbonitrile (50 mg) and thiophene-2-carboxaldehyde (54 mg) were mixed in isopropanol with TFA and refluxed for 20 hours. The reaction was then purified by flash chromatography, resulting in 61 mg (70%) of the title compound as an orange solid. M.p. 58°-60° C. 1H-NMR (300 MHz, [D] acetone): δ=8.49 (s, 1H), 7.90 (d, 1H, 3J=5.0 Hz), 7.82 (dd, 1H, 3J=3.7 Hz and 1.0 Hz), 7.42 (d, 1H, 3J=5.7 Hz), 7.27 (m, 2H, 3J=5.6 Hz). 13C-NMR (300 MHz, [D] acetone): δ=163.4, 155.4, 141.8, 136.2, 133.9, 129.0, 128.1, 122.5, 114.6, 105.8.

reactant | 2-Amino-thiophene-3-carbonitrile | 50 mg | NC=1SC=CC1C#N | C5H4N2S
reactant | thiophene-2-carboxaldehyde | 54 mg | S1C(=CC=C1)C=O | C5H4OS
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-[(thiophen-2-ylmethylene)-amino]-thiophene-3-carbonitrile | 61 mg, 70% | S1C(=CC=C1)C=NC=1SC=CC1C#N | C10H6N2S2
